2197-04-20 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2197-4-20**] 05:06 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 85 (71 - 85) bpm
   BP: 80/49(56) {80/49(56) - 85/53(61)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             310 mL
   PO:
             TF:
   IVF:
   310 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, ostomy
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   .
   # STEMI:  Positive cardiac enzymes and EKG changes consistent with
   STEMI, likely inferior region.  Currently chest pain free with plan for
   cardiac catheterization in a.m.
   - ASA 325 mg daily
   - clopidogrel 75 mg daily
   - continue heparin gtt
   - check lipid profile; atorvastatin 80 mg daily
   - holding beta blocker given hypotension
   - check echocardiogram
   - consider initiation of ACEi when BP tolerates
   - check A1c
   - repeat ECG tomorrow
   - possible cardiac cath in a.m. though at higher risk for mechanical
   complications with reperfusion
   .
   # Hypotension:  Likely secondary to RV failure in setting of inferior
   MI.  Would also consider hypovolemia and cardiogenic shock with LV
   dysfunction.
   - IVFs as needed to increase preload
   - start dopamine gtt if needed for MAP > 60
   - ECHO
   - monitor BP closely
   .
   # Hyperkalemia:  [**Month (only) 11**] be related to renal failure, K 6.7 on admission
   and peaked t waves on ekg in lateral leads.  Likely acute on chronic
   given kidney dysfunction.
   - 1 amp sodium bicarb now
   - kayexalate given in ED
   - repeat K and EKG in a.m.
   - follow closely on tele for PR prolongation, QRS widening, etc.
   .
   # Anion gap metabolic acidosis:  [**Month (only) 11**] be secondary to uremia, lactate,
   - check lactate
   - UA for ketones
   - serum tox for salicylates
   .
   # Anemia:  Chronic iron deficiency anemia with trace guaiac positive
   contents in ileostomy.
   - pantoprazole iv
   - continue to monitor hct
   - consider transfusion 1u PRBC
   .
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.
   - continue to monitor
   .
   # Osteoarthritis: restart oxycodone once dose confirmed
   .
   # Sacral and foot decubs:  would care consult
   .
   # DVT ppx: heparin gtt, PPI
   # FEN:  IVFs as above, NPO for now
   # CODE: full, discussed with family. They understand that he has a poor
   prognosis.
   # COMM:
   # DISPO: CCU for now
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-04-20 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2197-4-20**] 05:06 AM
   Transfused 1 unit RBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 85 (71 - 85) bpm
   BP: 80/49(56) {80/49(56) - 85/53(61)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             344 mL
   PO:
             TF:
   IVF:
   344 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   GENERAL: nad
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP to mandible
   CARDIAC: RRR, normal S1, S2. No m/r/g. [**2-11**] HSM.
   LUNGS: Resp were unlabored, no accessory muscle use. Limited exam
   secondary to patient participation, no rales or rhonchi
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN:  +sacral decubs and left ankle decub. venous stasis changes in
   lower extremities
   PULSES:
   Right: 1+ DP, unable to palpate posterior tibials
   Left: 1+ DP, unable to palpate posterior tibials
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231
   7.7
   151
   4.8
   16
   6.6
   73
   101
   138
   24.9
   15.4
        [image002.jpg]
   Trop 7.07  CK  419   MB   24   MBI 5.7   INR 1.3
   Assessment and Plan
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   .
   # STEMI:  Positive cardiac enzymes and EKG changes consistent with
   STEMI, likely inferior region.  Currently chest pain free.  Due to age
   and general poor baseline functionality, there is not much to gain from
   taking him for PCTA, therefore he will be managed medically.
   - ASA 325 mg daily
   - clopidogrel 75 mg daily
   - continue heparin gtt today consider stopping tomorrow
   - check lipid profile; atorvastatin 80 mg daily
   - holding beta blocker given hypotension
   - check echocardiogram
   - consider initiation of ACEi when BP tolerates
   - check A1c
   - repeat ECG tomorrow
   - discuss with family the goals of care
   .
   # Hypotension:  Likely secondary to RV failure in setting of inferior
   MI.  Would also consider hypovolemia and cardiogenic shock with LV
   dysfunction.
   - IVFs as needed to increase preload
   - start dopamine gtt if needed for MAP > 60
   - ECHO
   - monitor BP closely
   .
   # Anion gap metabolic acidosis:  Found to have elevated lactate.
   Likely from poor perfusion due to CHF after STEMI
   - continue to trend
   .
   # Hyperkalemia:  [**Month (only) 11**] be related to renal failure verus acid shifts in
   setting of lactic acidosis.  K 6.7 on admission and peaked t waves on
   ekg in lateral leads.
   - calcium gluconate
   - repeat kayexalate
   - follow closely on tele for PR prolongation, QRS widening, etc.
   .
   # Anemia:  Chronic iron deficiency anemia with trace guaiac positive
   contents in ileostomy.  Transfused 1 unit RBCs this am.
   - pantoprazole iv
   - continue to monitor hct
   .
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.
   - continue to monitor
   .
   # Osteoarthritis: restart oxycodone with PRN doses (starting lower than
   pt home dose to prevent hypoxia or other hemodynamic compromise)  will
   titrate up PRN
   .
   # Sacral and foot decubs:  would care consult
   .
   # DVT ppx: heparin gtt, PPI
   # FEN:  IVFs as above, cardiac healthy diet
   # CODE: full, discussed with family. They understand that he has a poor
   prognosis but pt wants full code after seeing his brother die [**Name (NI) 303**]
   .
   # DISPO: CCU for now
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   Neither family nor patient desire cardiac catheterizaiton. Will manage
   medically.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2197-4-20**] 12:27 ------

2197-04-21 08:31:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
 EKG - At [**2197-4-20**] 08:50 AM
 TRANSTHORACIC ECHO - At [**2197-4-20**] 12:15 PM
 EKG - At [**2197-4-20**] 09:37 PM
   [**4-20**]
   - gave 500 cc bolus for low uop and BP (sbp 80s)
   - spoke with patient's [**Hospital1 69**]: on [**2197-3-30**], SCr was 1.2 and BUN 46
   - transfused 1 unit pRBCs
   - six units insulin, two amps glucose and Kayexalate for elevated K
   - echo showing severe diastolic dysfunction of the left ventricle with
   associated right ventricular systolic dysfunction
   - additional 500 cc fluid bolus at 8PM for MAPs in low 50s
   - spoke with HCP, [**Name (NI) 332**] [**Name (NI) 11956**] [[**Telephone/Fax (1) 11957**], [**Numeric Identifier 11958**](c)] to
   review clinical situation. She confirmed patient expressed wish to be
   full code; she is aware that rapid deterioration could occur suddenly.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2197-4-20**] 09:40 AM
   Heparin Sodium - [**2197-4-20**] 10:32 AM
   Insulin - Regular - [**2197-4-20**] 05:00 PM
   Dextrose 50% - [**2197-4-20**] 05:15 PM
   Pantoprazole (Protonix) - [**2197-4-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complains of CP and chronic severe hip pain.
   Flowsheet Data as of  [**2197-4-21**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 76 (42 - 88) bpm
   BP: 91/51(60) {64/35(43) - 120/72(82)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,645 mL
                                                                    317 mL
   PO:
                                                                    350 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,795 mL
                                                                    107 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,536 mL
                                                                    723 mL
   Urine:
                                                                     11 mL
                                                                     23 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,109 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.37/33/102/20/-4
   Physical Examination
   GENERAL: NAD, alert and oriented x [**2-8**], drowsy but alert to voice
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP to mandible (probable 14cm above sternal angle at
   30 degrees)
   CARDIAC: RRR, normal S1, S2. No m/r/g. [**2-11**] HSM.
   LUNGS: Resp were unlabored, no accessory muscle use. Limited exam
   secondary to patient participation, no rales or rhonchi
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN:  +sacral decubs and left ankle decub. venous stasis changes in
   lower extremities
   Labs / Radiology
   209 K/uL
   7.7 g/dL
   141 mg/dL
   6.0 mg/dL
   20 mEq/L
   6.0 mEq/L
   86 mg/dL
   101 mEq/L
   140 mEq/L
   24.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2197-4-20**]  08:34 AM
                             [**2197-4-20**]  12:07 PM
                             [**2197-4-20**]  07:32 PM
                             [**2197-4-20**]  11:52 PM
                             [**2197-4-21**]  02:49 AM
   WBC
   14.8
   13.1
   11.3
   Hct
   24.4
   25.8
   24.6
   Plt
   [**Telephone/Fax (3) 11959**]
   Cr
   5.3
   5.9
   6.0
   TropT
   7.56
   8.09
   8.33
   TCO2
   23
   20
   Glucose
   148
   134
   157
   141
   Other labs: PT / PTT / INR:15.4/59.2/1.4, CK / CKMB /
   Troponin-T:394/21/8.33, ALT / AST:238/347, Alk Phos / T Bili:248/0.6,
   Lactic Acid:3.5 mmol/L, Albumin:3.2 g/dL, LDH:517 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.8 mg/dL, PO4:7.6 mg/dL
   Imaging: CXR AP [**2197-4-21**]:
   1. Limited study due to technique and low lung volumes. Probable
   bilateral
   pleural effusions with adjacent atelectasis.
   2. Opacity overlying the mid lower chest may represent a hiatal hernia
   or a tortuous-dilated aorta. PA and lateral view of the chest may be
   helpful in
   further evaluation.
   3. Prominence of the azygos vein.
   ECHO: [**2197-4-20**]:
   The left atrium is mildly dilated. The right atrium is moderately
   dilated. There is moderate symmetric left ventricular hypertrophy. The
   left ventricular cavity is very small. Although the left ventricular
   ejection fraction is nominally within normal limits, the stroke volume
   is probably markedly decreased due to the small left ventricular
   volumes. Tissue Doppler imaging suggests an increased left ventricular
   filling pressure (PCWP>18mmHg). The right ventricular cavity is dilated
   with depressed free wall contractility. The aortic root is mildly
   dilated at the sinus level. The ascending aorta is moderately dilated.
   The aortic valve leaflets are severely thickened/deformed. There is
   severe aortic valve stenosis. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. The tricuspid valve
   leaflets are mildly thickened. The supporting structures of the
   tricuspid valve are thickened/fibrotic. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: severe diastolic dysfunction of the left ventricle with
   associated right ventricular systolic dysfunction
   Microbiology: None
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   Assessment and Plan
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   .
   # STEMI:  Positive cardiac enzymes and EKG changes consistent with
   STEMI, likely inferior region.  Currently chest pain free.  Due to age
   and general poor baseline functionality, there is not much to gain from
   taking him for PCTA, therefore he will be managed medically. Lipids
   well controlled.
   - ASA 325 mg daily
   - clopidogrel 75 mg daily
   - continue heparin gtt would recommend stopping tomorrow (after 48
   hours)
   - Reduce atorvastatin from 80mg to 20 mg daily given LFT abnormalities
   - holding beta blocker given hypotension
   - consider initiation of ACEi when BP tolerates
   - discuss with family the goals of care
   .
   # Shock:  Likely secondary to RV failure in setting of inferior MI.
   Would also consider hypovolemia and cardiogenic shock with LV
   dysfunction. Pt now with signs of worsening multi-organ dysfunction
   with worsening LFTs, INR, rising lactate, and rising creatinine.
   - IVFs as needed to increase preload, as long as O2 status remains
   stable
   - Consider a trial of phenylephrine gtt if needed for MAP > 60
   - Would recommend against increasing the rate with inotropic agents as
   this would exacerbate patient
s severe diastolic dysfunction
   - monitor BP closely
   .
   # Oliguric renal failure: Most likely secondary to hypoperfusion
   secondary to cardiogenic shock. Likely the driving force behind the
   hyperkalemia.
   - Optimize hemodynamics to maintain adequate cardiac output and tissue
   perfusion
   - Renal consult to maintain electrolytes, doubtful that hemodialysis
   would be medically feasible but renal can also decide if medically
   feasible, would appreciate their input
   - Renal diet, renally dose meds
   - Kayaxalate and insulin/glucose for hyperkalemi a
   # Anion gap metabolic acidosis:  Found to have elevated lactate.
   Likely from poor perfusion due to CHF after STEMI
   - continue to trend
   .
   # Hyperkalemia:  [**Month (only) 11**] be related to renal failure verus acid shifts in
   setting of lactic acidosis.  K 6.7 on admission and peaked t waves on
   ekg in lateral leads.
   - calcium gluconate
   - Insulin/glucose
   - follow closely on tele for PR prolongation, QRS widening, etc.
   - Daily EKGs until peak t-waves resolve
   .
   # Anemia:  Chronic iron deficiency anemia with trace guaiac positive
   contents in ileostomy.  Transfused 1 unit RBCs this am.
   - pantoprazole iv
   - continue to monitor hct
   .
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.
   - continue to monitor
   - currently on heparin gtt for STEMI
   .
   # Osteoarthritis: restart oxycodone with PRN doses (starting lower than
   pt home dose to prevent hypoxia or other hemodynamic compromise)  will
   titrate up PRN
   .
   # Sacral and foot decubs:  would care consult
   .
   # DVT ppx: heparin gtt, PPI
   # FEN:  IVFs as above, cardiac healthy diet
   # CODE: full, discussed with family. They understand that he has a poor
   prognosis but pt wants full code after seeing his brother die [**Name (NI) 303**]
   .
   # DISPO: CCU
   ICU Care
   Nutrition: Cardiac and now renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10860**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2197-4-21**] 13:31 ------

2197-04-22 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident
   with a history of HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter,
   massive GI bleed who presented to [**Hospital3 1492**] with chest pain and
   is transferred for further management of STEMI.
   24 Hour Events:
   - gave 500 cc bolus for low uop and BP (sbp 80s)
   - spoke with patient's [**Hospital1 69**]: on [**2197-3-30**], SCr was 1.2 and BUN 46
   - transfused 1 unit pRBCs
   - six units insulin, two amps glucose and Kayexalate for elevated K
   - echo showing severe diastolic dysfunction of the left ventricle with
   associated right ventricular systolic dysfunction
   - additional 500 cc fluid bolus at 8PM for MAPs in low 50s
   - spoke with HCP, [**Name (NI) 332**] [**Name (NI) 11956**] [[**Telephone/Fax (1) 11957**], [**Numeric Identifier 11958**](c)] to
   review clinical situation. She confirmed patient expressed wish to be
   full code; she is aware that rapid deterioration could occur suddenly.
   - Renal consulted - likely not candidate for HD, asked for urine lytes,
   they (Such) spoke to HCP and helped arrange family meeting. They
   recommend following K, but otherwise holding off on placement of line
   and HD until tomorrow.
   - Family meeting will be at 5 p.m. on Saturday (sorry - only time
   possible for HCP)
   - Was made DNR/DNI after extensive discussion with [**Doctor First Name **] about what
   full code would mean. The gravity of his illness was made clear. He
   said that he might like to go home, but this will depend on meeting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-4-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient complains of continued pain in his right hip
   that is improved with oxycodone
   Flowsheet Data as of  [**2197-4-22**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 76 (66 - 88) bpm
   BP: 102/38(53) {70/37(49) - 103/60(68)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,347 mL
                                                                    112 mL
   PO:
                                                                  1,060 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    287 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,301 mL
                                                                    510 mL
   Urine:
                                                                     51 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     46 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96% on 3 L
   ABG: ///19/
   Physical Examination
   GENERAL: NAD, alert and oriented
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP to mandible
   CARDIAC: RRR, normal S1, S2. No m/r/g. [**2-11**] HSM.
   LUNGS: Resp were unlabored, no accessory muscle use. no rales or
   rhonchi
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.  Pain in right hip worse with
   movement
   SKIN:  +sacral decubs and left ankle decub. venous stasis changes in
   lower extremities
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   131 mg/dL
   7.4 mg/dL
   18 mEq/L
   7.9 mEq/L
   98 mg/dL
   97 mEq/L
   137 mEq/L
   25.5 %
   11.2 K/uL
        [image002.jpg]
   PTT 65.5   INR   1.4   LFTs pending
                             [**2197-4-20**]  08:34 AM
                             [**2197-4-20**]  12:07 PM
                             [**2197-4-20**]  07:32 PM
                             [**2197-4-20**]  11:52 PM
                             [**2197-4-21**]  02:49 AM
                             [**2197-4-21**]  09:00 AM
                             [**2197-4-21**]  05:00 PM
   WBC
   14.8
   13.1
   11.3
   Hct
   24.4
   25.8
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 11959**]
   Cr
   5.3
   5.9
   6.0
   6.6
   TropT
   7.56
   8.09
   8.33
   TCO2
   23
   20
   Glucose
   148
   134
   157
   141
   138
   Other labs: PT / PTT / INR:15.7/55.4/1.4, CK / CKMB /
   Troponin-T:394/21/8.33, ALT / AST:238/347, Alk Phos / T Bili:248/0.6,
   Lactic Acid:3.5 mmol/L, Albumin:3.2 g/dL, LDH:517 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.8 mg/dL, PO4:7.8 mg/dL
   Imaging: CXR AP [**2197-4-21**]:
   1. Limited study due to technique and low lung volumes. Probable
   bilateral
   pleural effusions with adjacent atelectasis.
   2. Opacity overlying the mid lower chest may represent a hiatal hernia
   or a tortuous-dilated aorta. PA and lateral view of the chest may be
   helpful in
   further evaluation.
   3. Prominence of the azygos vein.
   ECHO: [**2197-4-20**]:
   The left atrium is mildly dilated. The right atrium is moderately
   dilated. There is moderate symmetric left ventricular hypertrophy. The
   left ventricular cavity is very small. Although the left ventricular
   ejection fraction is nominally within normal limits, the stroke volume
   is probably markedly decreased due to the small left ventricular
   volumes. Tissue Doppler imaging suggests an increased left ventricular
   filling pressure (PCWP>18mmHg). The right ventricular cavity is dilated
   with depressed free wall contractility. The aortic root is mildly
   dilated at the sinus level. The ascending aorta is moderately dilated.
   The aortic valve leaflets are severely thickened/deformed. There is
   severe aortic valve stenosis. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. The tricuspid valve
   leaflets are mildly thickened. The supporting structures of the
   tricuspid valve are thickened/fibrotic. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: severe diastolic dysfunction of the left ventricle with
   associated right ventricular systolic dysfunction
   Assessment and Plan
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   .
   # ST elevations:  Positive cardiac enzymes and EKG changes consistent
   with STEMI, however this was not supported by the findings on
   echocardiogram which did not show LV dysfunction which one would expect
   with the lateral ST elevations.  Echo did show severe diastolic
   dysfunction and right systolic dysfunction.  The patient noted chest
   pain for several days prior to admission and was originally managed
   medically for what was thought to be STEMI because he was not a good
   candidate for catheterization and reperfusion.  However, in light of
   his echo findings which do not correlate well with his EKG findings,
   one must also consider other causes for his diffuse ST changes such as
   myo/pericarditis.  Pt also had uremia which may have precipitated
   this.
   - continue asprin 325 daily
   - stop plavix, heparin gtt given bleeding risk and questionable benefit
   - stop atorvastatin given elevated liver enzymes and questionable
   benefit in the short term due to limited life expectancy
   - holding beta blocker given hypotension
   - consider initiation of ACEi if BP tolerates
   - discuss with family the goals of care, meeting scheduled for 5 pm
   today
   .
   # Shock:  Likely secondary to RV failure, hypertrophic LV with poor
   stroke volume dispite normal EF, and aortic stenosis.  RV failure is
   likely a new insult and may have been due to MI or PE.  Pt presented
   with signs of multi-organ dysfunction with worsening LFTs, INR, rising
   lactate, and rising creatinine.
   - IVFs as needed to increase preload, as long as O2 status remains
   stable
 goal JVP 14-16 cm
   - Consider a trial of phenylephrine gtt if needed for MAP > 60 (would
   discourage use of inotropic agents given hypertrophic heart and
   diastolic dysfunction
   - monitor BP closely
   .
   # Oliguric renal failure: Most likely secondary to hypoperfusion
   secondary to cardiogenic shock and aortic stenosis causing ATN.
   Although alternatively a renal insult may have precipitated electrolyte
   disturbances causing the EKG changes
   - Optimize hemodynamics (MAP > 60) to maintain adequate cardiac output
   and tissue perfusion
   - Appreciate renal recs
   - f/u urine lytes to confirm prerenal vs intrarenal
   - f.u renal U/S
   - Renal diet, renally dose meds
   - Kayaxalate and insulin/glucose for hyperkalemia
   - family meeting today to discuss dialysis versus CMO
   .
   # Anion gap metabolic acidosis:  Found to have elevated lactate.
   Likely from poor perfusion due to decreased stroke volume
   - continue to trend
   .
   # Hyperkalemia:  Likely related to renal failure.  K 6.7 on admission
   and peaked t waves on ekg in lateral leads.  Pt has received
   kayexalate, bicarb, calcium gluconate, and insulin.  This am potassium
   was hemolyzed
   - repeat potassium and check pm lytes as well
   - calcium gluconate PRN
   - Insulin/glucose PRN
   - follow closely on tele for PR prolongation, QRS widening, etc.
   - Daily EKGs until peak t-waves resolve
   .
   # Anemia:  Chronic iron deficiency anemia with trace guaiac positive
   contents in ileostomy.  Transfused 1 unit RBCs yesterday.
   - PO pantoprazole
   - continue to monitor hct
   .
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.  However new PE might explain right heart
   dysfunction.
   - obtain OSH records regarding time course of PE/DVT
   - consider V/Q scan to r/o PE (creatinine elevated preventing CT scan)
   - continue to monitor
   - stop heparin gtt today
   .
   # Osteoarthritis: continue oxycodone with PRN doses (starting lower
   than pt home dose to prevent hypoxia or other hemodynamic compromise)
   will titrate up PRN
   .
   # Sacral and foot decubs:  would care consult
   .
   # Goals of care: pt recently changed from full code to DNR/DNI.  Family
   meeting today to discuss HD versus CMO
   .
   # DVT ppx: IVC filter, pneumoboots
   # FEN:  IVFs as above, cardiac healthy diet
   # CODE: DNR/DNI (since [**2197-4-21**])
   .
   # DISPO: CCU
   ICU Care
   Nutrition: Cardiac and now renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 03:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2197-04-23 04:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident
   with a history of HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter,
   massive GI bleed who presented to [**Hospital3 1492**] with chest pain and
   is transferred for further management of STEMI.
   24 Hour Events:
 EKG - At [**2197-4-22**] 08:30 AM
 URINE CULTURE - At [**2197-4-22**] 10:00 AM
 ULTRASOUND - At [**2197-4-22**] 12:00 PM
   liver
 DIALYSIS CATHETER - START [**2197-4-22**] 09:28 PM
   [**4-22**]
   - potassium 7.0 gave kayexalate (not working well due to colostomy?)
   and 1 amp bicarb
   - renal estimates 24-48 hrs before he declines rapidly given the rate
   of his refractory hyperkalemia
   - After seeing the [**Doctor Last Name **] which did not show regional wall motion
   abnormailty c/w ST elevations, discussed that his renal failure may not
   be secondary to cardiogenic shock, but rather the inciting incident
   that caused his uremia which may have led to the EKG changes; because
   this may potentially be reversible, discussed with renal and pt the
   option of CVVH and pt wishes to go forward
   - met with family who supported CVVH
   - tried to obtain records and found the following:
         Had DVT in [**2186**] in one leg and then in [**2183**] in other leg
         Had IVC filter placed [**2183**]
         [**2190**] had PE and was continued on coumadin
         [**1-14**] had large GIB from AV malformation requiring large
   transfusion and right hemicolectomy
         [**12-14**] had AAA repair
         [**2197-3-19**] had known creatinine 1.2
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1294**] VA: echo performed in [**5-14**] showed RV was normal in size and
   function (compared to now with right ventricular systolic dysfunction),
   LV small with concentric hypertrophy, LVEF >70% and no regional wall
   abnormalities, aortic valve area 1.3 cm2, mild to moderate mitral
   stenosis.
   - placed left IJ HD line and started CVVH
   - started neo for SBP in 70s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-4-22**] 08:30 AM
   Hydromorphone (Dilaudid) - [**2197-4-22**] 08:36 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2197-4-22**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2197-4-23**] 04:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.1
C (95.2
   HR: 77 (62 - 85) bpm
   BP: 76/52(57) {76/38(51) - 111/73(77)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82 kg (admission): 75.3 kg
             Total In:
                                                                    602 mL
                                                                    330 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                     62 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  1,446 mL
                                                                    133 mL
   Urine:
                                                                     56 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -844 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
        Labs redrawn
 pending
   [**2197-4-20**]  08:34 AM
                             [**2197-4-20**]  12:07 PM
                             [**2197-4-20**]  07:32 PM
                             [**2197-4-20**]  11:52 PM
                             [**2197-4-21**]  02:49 AM
                             [**2197-4-21**]  09:00 AM
                             [**2197-4-21**]  05:00 PM
                             [**2197-4-22**]  06:00 AM
                             [**2197-4-22**]  06:00 PM
   WBC
   14.8
   13.1
   11.3
   11.2
   Hct
   24.4
   25.8
   24.6
   24.2
   25.5
   Plt
   [**Telephone/Fax (3) 11980**]15
   Cr
   5.3
   5.9
   6.0
   6.6
   7.4
   7.9
   TropT
   7.56
   8.09
   8.33
   TCO2
   23
   20
   Glucose
   148
   134
   157
   141
   138
   131
   119
   Other labs: PT / PTT / INR:16.0/65.5/1.4, CK / CKMB /
   Troponin-T:394/21/8.33, ALT / AST:491/551, Alk Phos / T Bili:355/0.4,
   Lactic Acid:3.5 mmol/L, Albumin:2.9 g/dL, LDH:775 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.8 mg/dL, PO4:8.1 mg/dL
   Liver U/S: consistent with congestive hepatopathy, nml kidneys, no
   hydronephrosis
   Echo from OSH: normal RV in [**5-14**]
   Assessment and Plan
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   # Shock:  Likely secondary to RV failure, hypertrophic LV with poor
   stroke volume despite normal EF, and aortic stenosis.  RV failure is a
   new insult compared with echo in [**5-14**] when RV was normal.  Most likely
   etiologies include MI or PE.  Pt presented with signs of multi-organ
   dysfunction with worsening LFTs, INR, rising lactate, and rising
   creatinine.  Started on pressors last night to maintain MAP above 60.
   - IVF bolus now that on CVVH and risk of fluid overload mitigated with
   ability to remove fluid
   - Continue  phenylephrine gtt PRN for MAP > 60 (would discourage use of
   inotropic agents given hypertrophic heart and diastolic dysfunction
   - consider CTA with contrast removal by CVVH to r/o PE
   - monitor BP closely
   # Oliguric renal failure: Most likely pre-renal secondary to
   hypoperfusion from poor forward flow due to decreased LV chamber size
   secondary to hypertrophy, and newly failed right ventricle worsening LV
   preload.  Although alternatively a renal insult may have precipitated
   electrolyte disturbances causing the EKG changes, this is less likely
   given time course (creatinine 1.2 in [**2197-3-6**])  and normal renal U/S
   - CVVH
   - Optimize hemodynamics (MAP > 60) to maintain adequate cardiac output
   and tissue perfusion (IVF bolus)
   - Appreciate renal recs
   - Renal diet, renally dose meds
   - Kayaxalate and insulin/glucose for hyperkalemia
   .
   # ST elevations:  [**Month (only) 11**] be from pericarditis caused by uremia (Friction
   rub heard on exam yesterday).  Positive cardiac enzymes and EKG changes
   consistent also with STEMI, however this was not supported by the
   findings on echocardiogram which did not show LV dysfunction which one
   would expect with the lateral ST elevations.
   - continue asprin 325 daily
   - holding plavix, heparin gtt given bleeding risk and questionable
   benefit
   - holding atorvastatin given elevated liver enzymes and questionable
   benefit in the short term due to limited life expectancy
   - holding beta blocker given hypotension
   - consider initiation of ACEi if BP tolerates
   # Hyperkalemia:  Likely related to renal failure.  Pt has received
   kayexalate, bicarb, calcium gluconate, and insulin.
   - lytes per renal protocol
   - remove potassium through CVVH
   - calcium gluconate PRN
   - Insulin/glucose PRN
   - follow closely on tele for PR prolongation, QRS widening, etc.
   - Daily EKGs until peak t-waves resolve
   # Anion gap metabolic acidosis:  Found to have elevated lactate.
   Likely from poor perfusion due to decreased stroke volume
   - continue to trend
   # Anemia:  Chronic iron deficiency anemia with trace guaiac positive
   contents in ileostomy.  Transfused 1 unit RBCs [**2197-3-21**].
   - PO pantoprazole
   - continue to monitor hct
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.  However new PE might explain right heart
   dysfunction.  OSH showed pt had PE while on Coumadin and with IVC
   filter in [**2190**].  Recently stopped Coumadin [**2-15**] due to ENT bleed.
   (also known to have GI bleed in [**1-14**]).
   - consider V/Q scan to r/o PE vs CTA
   - continue to monitor
   - continue heparin gtt
   # Osteoarthritis: continue oxycontin with PRN oxycodone doses (starting
   lower than pt home dose to prevent hypoxia or other hemodynamic
   compromise)  will titrate up PRN
   # Sacral and foot decubs:  would care consult
   # Goals of care: pt recently changed from full code to DNR/DNI.
   # DVT ppx: heparin gtt
   # FEN:  IVFs as above, cardiac healthy diet
   # CODE: DNR/DNI (since [**2197-4-21**])
   # DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-20**] 04:22 AM
   20 Gauge - [**2197-4-20**] 03:50 PM
   Dialysis Catheter - [**2197-4-22**] 09:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Events over past 24 hours reviewed with CCU team:
   Decision for CVVH based on possible recovery of RV function, absence of
   evidence of STEMIn as etiology, possible  improved cardiac output and
   acute renal insult (normal kidney size);
   Line placement and CVVH in progress with good tolerance
   Physical Examination
   Pericardial rub not heard today; short 2/6 systolic murmur of AS; no
   diastolic murmur;
   less alert currently;
   Medical Decision Making
   Willl continue CVVH and follow renal parameters with renal team;
   Trial fluid bolus as means to improve LV preload and cardiac output;
   Continue low dose phenylephrine for BP support
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2197-4-23**] 11:52 AM ------

2197-04-24 07:52:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
 MIDLINE - START [**2197-4-23**] 03:34 PM
   [**4-23**]
   - PICC line placed due to difficulty drawing labs; of note, was diffult
   to position, is currently positioned....
   - Noted to have several hypoglycemic empisodes in the morning. Insulin
   decreased.
   - Bicarb 10 on AM labs; RR and temperature mildly increased. This
   prompted ABG --> very acidodic with lactate of 16. Only complaint
   remains right hip pain.
   - Volume repleted with 2L D5W with 3 amps NaHCO3
   - Urgent abdominal/hip CT basically negative. One area near AAA graft
   which could potentially represent a tiny endo leak, although difficult
   to say on this study (definitely not a major leak per radiology).
   Advanced degenerative disease of the right hip.
   - Spoke with family at 7:30P, reviwed poor prognosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-4-23**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2197-4-24**] 07:10 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2197-4-23**] 05:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Total body pain, as before.
   Flowsheet Data as of  [**2197-4-24**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (69 - 99) bpm
   BP: 77/46(54) {68/42(48) - 124/91(94)} mmHg
   RR: 23 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82 kg (admission): 75.3 kg
             Total In:
                                                                  5,984 mL
                                                                  1,243 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                  4,644 mL
                                                                  1,243 mL
   Blood products:
   Total out:
                                                                  1,167 mL
                                                                    160 mL
   Urine:
                                                                     20 mL
                                                                     10 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  4,817 mL
                                                                  1,083 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.24/32/33/17/-13
   Physical Examination
   General Appearance: Thin, elderly man, dyspneic, looks uncomfortable,
   confused
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1, seems more confused
   Labs / Radiology
   100 K/uL
   7.0 g/dL
   100 mg/dL
   5.5 mg/dL
   17 mEq/L
   5.1 mEq/L
   72 mg/dL
   84 mEq/L
   133 mEq/L
   21.8 %
   16.1 K/uL
        [image002.jpg]
                             [**2197-4-21**]  09:00 AM
                             [**2197-4-21**]  05:00 PM
                             [**2197-4-22**]  06:00 AM
                             [**2197-4-22**]  06:00 PM
                             [**2197-4-23**]  06:02 AM
                             [**2197-4-23**]  09:14 AM
                             [**2197-4-23**]  01:35 PM
                             [**2197-4-23**]  02:21 PM
                             [**2197-4-23**]  07:02 PM
                             [**2197-4-24**]  01:37 AM
   WBC
   11.2
   11.8
   17.2
   16.1
   Hct
   24.2
   25.5
   23.8
   24.6
   21.8
   Plt
   [**Telephone/Fax (3) 11991**]00
   Cr
   6.6
   7.4
   7.9
   5.1
   5.5
   TropT
   7.85
   TCO2
   8
   14
   Glucose
   138
   131
   119
   76
   63
   140
   100
   Other labs: PT / PTT / INR:23.2/130.9/2.2, CK / CKMB /
   Troponin-T:283/15/7.85, ALT / AST:494/632, Alk Phos / T Bili:366/0.9,
   Lactic Acid:12.8 mmol/L, Albumin:2.9 g/dL, LDH:851 IU/L, Ca++:9.0
   mg/dL, Mg++:2.4 mg/dL, PO4:6.3 mg/dL
   Imaging: CXR [**2197-4-23**]
   PICC LINE SEEN TO LEVEL OF JUNCTION OF SVC AND BRACHIOCEPHALIC VEIN.
   TIP NOT
   CLEARLY IDENTIFIED. REC REPEAT WITH EXTERNAL LEADS REMOVED. LEFT CVC
   UNCHANGED. LOW LUNG VOLUMES. HEART SIZE UNCHANGED.
   CT Abdomen:
   1. Right colectomy changes noted. No obstruction is identified with
   good
   output into the right lower quadrant ostomy bag.
   2. Aortobifemoral graft in place. A questionable hyperdense area is
   identified posteriorly (series 301/image 38). This is of unclear
   significance. A small endoleak cannot be excluded without dedicated
   imaging.
   3. Right hip degenerative changes.
   Microbiology: [**2197-4-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2197-4-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2197-4-22**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2197-4-20**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   Assessment and Plan
 CARDIOMYOPATHY, HYPERTROPHIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   Mr. [**Known lastname 11927**] is an 85 [**Hospital 11928**] nursing home resident with a history of
   HTN, ?hypertrophic cardiomyopathy, PE s/p IVC filter, massive GI bleed
   who presented to [**Hospital3 1492**] with chest pain and is transferred for
   further management of STEMI.
   # Shock:  Likely secondary to RV failure, hypertrophic LV with poor
   stroke volume despite normal EF, and aortic stenosis.  RV failure is a
   new insult compared with echo in [**5-14**] when RV was normal.  Most likely
   etiologies include MI or PE.  Pt presented with signs of multi-organ
   dysfunction with worsening LFTs, INR, rising lactate, and rising
   creatinine. Rising lactate most likely secondary to phenylephrine
   causing peripheral vasoconstriction and end-organ damage
   - IVF bolus now that on CVVH and risk of fluid overload mitigated with
   ability to remove fluid
   - DC phenylephrine
   - Trial of dopamine today
   - monitor BP closely
   # Anion gap metabolic acidosis:  Lactate high at 18, now at 12, and AG
   from 35 to 22 after DC
ing phenylephrine, most likely secondary to
   severe cardiogenic shock exacerbated by vasoconstriction in effort to
   maintain blood pressures.
   - DC phenylephrine
   - Bolus PRN, with caution given patient is oliguric
   - Trial of dopamine per above
   - continue to trend
   # Oliguric renal failure: Most likely pre-renal secondary to
   hypoperfusion from poor forward flow due to decreased LV chamber size
   secondary to hypertrophy, and newly failed right ventricle worsening LV
   preload.  Although alternatively a renal insult may have precipitated
   electrolyte disturbances causing the EKG changes, this is less likely
   given time course (creatinine 1.2 in [**2197-3-6**])  and normal renal U/S
   - Would recommend against CVVH, as would likely be medically futile
   - Optimize hemodynamics (MAP > 50) to maintain adequate cardiac output
   and tissue perfusion (IVF bolus and dopamine)
   - Appreciate renal recs
   - Renal diet, renally dose meds
   - Kayaxalate and insulin/glucose for hyperkalemia
   .
   # ST elevations:  [**Month (only) 11**] be from pericarditis caused by uremia (Friction
   rub heard on exam yesterday).  Positive cardiac enzymes and EKG changes
   consistent also with STEMI, however this was not supported by the
   findings on echocardiogram which did not show LV dysfunction which one
   would expect with the lateral ST elevations.
   - continue asprin 325 daily
   - holding plavix given bleeding risk and questionable benefit
   - holding atorvastatin given elevated liver enzymes and questionable
   benefit in the short term due to limited life expectancy
   - holding beta blocker given hypotension
   - consider initiation of ACEi if BP tolerates
   # Hyperkalemia:  Likely related to renal failure.  Pt has received
   kayexalate, bicarb, calcium gluconate, and insulin.
   - lytes per renal protocol
   - remove potassium through CVVH
   - calcium gluconate PRN
   - Insulin/glucose PRN
   - follow closely on tele for PR prolongation, QRS widening, etc.
   - Daily EKGs until peak t-waves resolve
   # Liver failure: Patient with liver failure leading to worsening
   coaggulopathy and hypoglycemic secondary to impaired gluconeogenisis,
   and probably contributing to the elevated lactate.
   - trend enzymes
   - avoid Tylenol
   - treat underlying condition with IVF and dopamine trial today
   # Anemia:  HCT drop likely hemodilutional in setting of receiving
   several liters of fluid and all counts being down. Chronic iron
   deficiency anemia with trace guaiac positive contents in ileostomy.
   Transfused 1 unit RBCs [**2197-3-21**].
   - PO pantoprazole
   - continue to monitor hct, recheck at CBC at 1pm, if HCT <25 can offer
   transfusion to family during meeting today if they still favor
   aggressive management
   # Pulmonary embolism/DVT:  Not on coumadin because of history of GI
   bleed.  IVC filter in place.  However new PE might explain right heart
   dysfunction.  OSH showed pt had PE while on Coumadin and with IVC
   filter in [**2190**].  Recently stopped Coumadin [**2-15**] due to ENT bleed.
   (also known to have GI bleed in [**1-14**]).
   - continue to monitor
   - continue heparin gtt for now, pending goals of care discussion
   # Osteoarthritis: continue oxycontin with PRN oxycodone doses (starting
   lower than pt home dose to prevent hypoxia or other hemodynamic
   compromise)  will titrate up PRN
   # Sacral and foot decubs:  would care consult
   # Goals of care: pt recently changed from full code to DNR/DNI.
   # DVT ppx: heparin gtt
   # FEN:  IVFs as above, cardiac, renal and diabetic diet
   # CODE: DNR/DNI (since [**2197-4-21**]), will have a goals of care discussion
   with family today to readdress as patient
s status is grave.
   # DISPO: CCU